US07557114B2
(a) 5-Ethylsulfanyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Lit. Tetrahedron 2004, 60, 7397-7403. To a stirred suspension of 1.34 mmol 5-bromo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (CAS: 201940-08-1) in 2 ml dioxane were added 0.03 mmol 1,1′-bis(diisopropylphosphino)ferrocene, 0.03 mmol palladium acetate, 1.61 mmol sodium tert-butoxide and 2.68 mmol ethanethiol and the mixture was stirred at 100° C. for 16 h. The reaction mixture was then cooled to room temperature, diluted with ethyl acetate/tetrahydrofuran and washed with brine. The organic phase was dried over sodium sulfate and concentrated in vacuo to yield the title compound as a brown oil which was used in the next step without further purification.

reactant | 5-bromo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 1.34 mmol | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)Br | C13H16BrNO2
reactant | sodium tert-butoxide | 1.61 mmol | CC(C)([O-])C.[Na+]
reactant | ethanethiol | 2.68 mmol | C(C)S | C2H6S
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
catalyst | 1,1′-bis(diisopropylphosphino)ferrocene | 0.03 mmol | C(C)(C)P([C-]1C=CC=C1)C(C)C.[C-]1(C=CC=C1)P(C(C)C)C(C)C.[Fe+2]
catalyst | palladium acetate | 0.03 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Ethylsulfanyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)SCC | C15H21NO2S
